US08426411B2
To a solution of tert-butyl 1-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)pyrrolidin-3-ylcarbamate (0.175 g, 0.511 mmol, Example #D.1.42) in DCM (10 mL) was added HCl (4 N in 1,4-dioxane, 1.28 mL, 5.11 mmol). After about 4 h at ambient temperature, the reaction mixture was concd in vacuo. The residue was suspended in DCM (10 mL) and DIEA (0.446 mL, 2.56 mmol) was added to the reaction mixture resulting in a nearly homogeneous mixture. To the mixture was added cyclopropanesulfonyl chloride (0.079 g, 0.56 mmol). After about 2 h at ambient temperature, additional cyclopropane-sulfonyl chloride (0.079 g, 0.56 mmol) was added. After about 6 h at ambient temperature, saturated aqueous NaHCO3 (10 mL) was added to the reaction mixture. The organic layer was separated and the aqueous layer was extracted with DCM (3×10 mL). The combined organic layers were concd in vacuo and purified by chromatography on silica gel (40 g) eluting with 50-90% MeCN in DCM to provide N-(1-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)pyrrolidin-3-yl)cyclopropane-sulfonamide (0.125 g, 70%) as a tan solid: LC/MS (Table 1, Method a) Rt=1.42 min; MS m/z: 347 (M+H)+.

reactant | tert-butyl 1-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)pyrrolidin-3-ylcarbamate | 0.511 mmol, 0.175 g | C1(=NC=C2N1C1=C(N=C2)NC=C1)N1CC(CC1)NC(OC(C)(C)C)=O | C17H22N6O2
reactant | HCl | 5.11 mmol, 4 N, 1.28 mL | Cl | ClH
reactant | DIEA | 2.56 mmol, 0.446 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropanesulfonyl chloride | 0.56 mmol, 0.079 g | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | cyclopropane-sulfonyl chloride | 0.56 mmol, 0.079 g | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(1-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)pyrrolidin-3-yl)cyclopropane-sulfonamide | 0.125 g, 70% | C1(=NC=C2N1C1=C(N=C2)NC=C1)N1CC(CC1)NS(=O)(=O)C1CC1 | C15H18N6O2S
